US05880111
Reaction of piperazine with tetraethyl ethenylidenebisphosphonate according to the procedure described in Example 1, above, gives tetraethyl 2-(1-piperazyl)-1,1-ethanediphosphonate. Reaction of the latter with 9-chloro-10-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benz-oxazine-6-carboxylic acid yields the title compound.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | tetraethyl ethenylidenebisphosphonate | C(=C)(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C10H22O6P2
product | tetraethyl 2-(1-piperazyl)-1,1-ethanediphosphonate | N1(CCNCC1)CC(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C14H32N2O6P2
